US07462611B2
a) 7-Methoxy-1,1-dioxo-1,4-dihydro-2H-1λ6-benzo[1,2,4]thiadiazin-3-one
Chlorosulfonyl isocyanate (17 mL, 195 mmol) was dissolved in nitroethane (150 mL) and cooled to −40° C. A solution of 4-methoxyaniline (20 g, 162 mmol) in nitroethane (100 mL) was then added dropwise with stirring. After the addition was completed, the reaction was stirred for an additional 5 min and aluminum chloride (25 g, 195 mmol) was added. The mixture was then quickly heated to 110° C. with stirring for 20 min. The crude material was then poured onto ice and the precipitate was collected by vacuum filtration, washed with cold water, and dried in vacuo to afford the desired product, 7-methoxy-1,1-dioxo-1,4-dihydro-2H-1λ6-benzo[1,2,4]thiadiazin-3-one (35 g, 153.5 mmol, 79% yield) as a purple powder. 1H NMR (400 MHz, DMSO-d6): δ 3.6 (br, 1H), 3.78 (s, 3H), 7.2 (m, 3H), 11.05 (s, 1H).

reactant | Chlorosulfonyl isocyanate | 195 mmol, 17 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 4-methoxyaniline | 162 mmol, 20 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | aluminum chloride | 195 mmol, 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitroethane | 150 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | nitroethane | 100 mL | [N+](=O)([O-])CC | C2H5NO2
product | 7-methoxy-1,1-dioxo-1,4-dihydro-2H-1λ6-benzo[1,2,4]thiadiazin-3-one | 153.5 mmol, 35 g, 79% yield | COC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C8H8N2O4S
